US05240948
2-(3-Chlorobenzoylimino)-3-(3-methyl-sulphonylpropyl)-6-trifluoromethoxybenzothiazoline may be prepared in the following way: 75% m-chloro-perbenzoic acid (5.2 g) is added in the course of about 10 minutes, to 2-imino-3-(3-methylthiopropyl)-6-trifluoromethoxybenzothiazoline (3.9 g) in solution in dichloromethane (100 cc) stirred at a temperature close to 20° C. The reaction mixture is brought to the boil for 18 hours. After cooling to a temperature close to 20° C., the precipitate is filtered off and washed with dichloromethane (50 cc) and the filtrate is concentrated to dryness under reduced pressure after washing with 1N sodium hydroxide solution. The oil obtained is crystallised from ethyl acetate. 2-(3-Chlorobenzoylimino)-3-(3-methylsulphonylpropyl)-6-trifluoromethoxybenzothiazoline (0.6 g) melting at 188° C. is obtained.

reactant | 2-(3-Chlorobenzoylimino)-3-(3-methyl-sulphonylpropyl)-6-trifluoromethoxybenzothiazoline | ClC=1C=C(C(=O)N=C2SC3=C(N2CCC(C)=S(=O)=O)C=CC(=C3)OC(F)(F)F)C=CC1 | C19H14ClF3N2O4S2
reactant | m-chloro-perbenzoic acid | 5.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-imino-3-(3-methylthiopropyl)-6-trifluoromethoxybenzothiazoline | 3.9 g | N=C1SC2=C(N1CCCSC)C=CC(=C2)OC(F)(F)F | C12H13F3N2OS2
solvent | dichloromethane | 100 cc | ClCCl | CH2Cl2
product | 2-(3-Chlorobenzoylimino)-3-(3-methylsulphonylpropyl)-6-trifluoromethoxybenzothiazoline | 0.6 g | ClC=1C=C(C(=O)N=C2SC3=C(N2CCCS(=O)(=O)C)C=CC(=C3)OC(F)(F)F)C=CC1 | C19H16ClF3N2O4S2
